US09334278B2
A mixture of 2-bromo-N-isopropyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (150 mg, 363 μmol), 5-methylpyridin-2-amine (58.9 mg, 544 μmol), BINAP (11.3 mg, 18.1 μmol), palladium (II) acetate (20.4 mg, 90.7 μmol) and sodium tert-butoxide (87.2 mg, 907 μmol) was added DMF (780 μL) and toluene (390 μL) was heated in a microwave at 140° C. for 20 min. The mixture was cooled then diluted with water and ethyl acetate. The mixture was extracted with ethyl acetate (3×) then the organic extracts were combined and washed with brine, dried over magnesium sulfate and purified by chromatography (silica, 30-70% ethyl acetate in hexanes) to give N-isopropyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (90 mg, 204 μmol, 56%) as an off-white solid. MS (EI/CI) m/z: 441.3 [M+H].

reactant | 2-bromo-N-isopropyl-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 363 μmol, 150 mg | BrC=1N=C2C(=NC1)N(C=C2C(=O)NC(C)C)COCC[Si](C)(C)C | C16H25BrN4O2Si
reactant | 5-methylpyridin-2-amine | 544 μmol, 58.9 mg | CC=1C=CC(=NC1)N | C6H8N2
reactant | sodium tert-butoxide | 907 μmol, 87.2 mg | CC(C)([O-])C.[Na+]
reactant | DMF | 780 μL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium (II) acetate | 90.7 μmol, 20.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | BINAP | 18.1 μmol, 11.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
solvent | toluene | 390 μL | C1(=CC=CC=C1)C | C7H8
product | N-isopropyl-2-(5-methylpyridin-2-ylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 204 μmol, 90 mg, 56% | C(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=NC=C(C=C2)C)COCC[Si](C)(C)C | C22H32N6O2Si
